US04707344
Process as claimed in claim 13 for the production of tetrasodium pryophosphate, wherein trisodium orthophosphate is acidified with sulfuric acid, disodium orthophosphate is separated from the reaction mixture and the disodium orthophosphate so separated is heated to btween 400° C. and 600° C. to form tetrasodium pyrophosphate.

reactant | tetrasodium | C1C=CN(C=C1C(=O)N)C2C(C(C(O2)COP(=O)([O-])OP(=O)([O-])OCC3C(C(C(O3)N4C=NC5=C4N=CN=C5N)OP(=O)([O-])[O-])O)O)O.[Na+].[Na+].[Na+].[Na+]
reactant | trisodium orthophosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | disodium orthophosphate | P(=O)([O-])([O-])O.[Na+].[Na+]
product | tetrasodium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.H4O7P2/c;;;;1-8(2,3)7-9(4,5)6/h;;;;(H2,1,2,3)(H2,4,5,6)/q4*+1;/p-4
